US09388189B2
(S)-4-Amino-N-(3-methoxy-5-(methylsulfonamido)phenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (117 mg, 0.38 mmol), 4-amino-6-chloro-N-(3-methoxy-5-(methylsulfonamido)phenyl)pyrimidine-5-carboxamide (266 mg, 65% purity, 0.46 mmol), DIEA (404 μl, 2.32 mmol) and cesium fluoride (175 mg, 1.14 mmol) were suspended in tert-butanol (12 ml) and the mixture was heated at 80° C. in a sealed tube for 3 days. The solvent was evaporated under reduced pressure and the reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and brine. After evaporation of the solvent, the residue was purified by reverse phase using SP1® Purification System to give 54 mg (23% yield) as a solid. Purity 97%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.38 mmol, 117 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-amino-6-chloro-N-(3-methoxy-5-(methylsulfonamido)phenyl)pyrimidine-5-carboxamide | 0.46 mmol, 266 mg | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)NS(=O)(=O)C)OC)Cl | C13H14ClN5O4S
reactant | DIEA | 2.32 mmol, 404 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cesium fluoride | 1.14 mmol, 175 mg | [F-].[Cs+]
solvent | tert-butanol | 12 ml | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-N-(3-methoxy-5-(methylsulfonamido)phenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 23% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=CC(=C1)NS(=O)(=O)C)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C28H29N9O5S
